US05633388
Preparation of 2-(4-aminophenyl)-benzimidazole
This intermediate was prepared according to the procedure given in E. Acalade et al., J. Org. Chem. 52:5009-15 (1987). A mixture of 3.21 g (0.0247 moles) of O-phenylenediamine, 3.93 g (0.0287 moles) of 4-aminobenzoic acid and 42 g of polyphosphoric acid was heated to 195° C. for 5 hours. After cooling to room temperature, the reaction mixture was diluted with 180 mL of water and basified to pH 8 with solid potassium carbonate. The resulting precipitate was collected, washed with water and dried to give 4.56 g of product.

reactant | O-phenylenediamine | 0.0247 moles, 3.21 g | [2H]C1=C(C(=C(C(=C1[2H])N)N)[2H])[2H] | C6H8N2
reactant | 4-aminobenzoic acid | 0.0287 moles, 3.93 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
solvent | water | 180 mL | O | H2O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-(4-aminophenyl)-benzimidazole | 4.56 g | NC1=CC=C(C=C1)C=1NC2=C(N1)C=CC=C2 | C13H11N3
